US09029377B2
Step A: Preparation of 4-amino-3,5-dicyclopropylbenzonitrile (i-7a)
Palladium (II) acetate (814 mg, 3.62 mmol) was added to a stirred mixture of 4-amino-3,5-dibromobenzonitrile (5.00 g, 18.1 mmol), cyclopropanboronic acid (3.89 g, 45.3 mmol), potassium phosphate tribasic (23.1 g, 109 mmol) and tricyclohexylphosphine (1.02 g, 3.62 mmol) in toluene (20.0 mL) and water (1.0 mL). The resulting mixture was degassed and heated to 100° C. After 3 h, the reaction mixture was cooled to rt, diluted with water and extracted with EtOAc. The organics were washed with brine, dried (Na2SO4), filtered and concentrated in vacuo. The crude residue was purified by column chromatography on silica gel (gradient elution, 0-15% EtOAc/hexanes as eluent) to afford the title compound i-7a. m/z (ES) 199 (MH)+.

reactant | 4-amino-3,5-dibromobenzonitrile | 18.1 mmol, 5.00 g | NC1=C(C=C(C#N)C=C1Br)Br | C7H4Br2N2
reactant | cyclopropanboronic acid | 45.3 mmol, 3.89 g | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate tribasic | 109 mmol, 23.1 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | 3.62 mmol, 1.02 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | toluene | 20.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 1.0 mL | O | H2O
catalyst | Palladium (II) acetate | 3.62 mmol, 814 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-amino-3,5-dicyclopropylbenzonitrile | NC1=C(C=C(C#N)C=C1C1CC1)C1CC1 | C13H14N2
